US05107008
To a solution of 2.16 g of 7-allyloxy-4-methylcoumarin and 5×10-6 mols chloroplatinic acid hydrosilylation catalyst in 20 ml toluene was slowly added 2.0 g of Me2SiHCl and the mixture was heated at 40°-42° for 6 hrs. Toluene and unreacted silane were then removed at reduced pressure to yield 7{2-(chlorodimethylsilyl)propoxy}-4-methylcoumarin. The 1H-NMR spectrum (ppm) contained signals at 0.2(s) for SiCH3, (6H); 2.4(s) for CH3,(3H); 4.0(t) for CH2O, (2H) and no signal for the allyl moiety.

reactant | 7-allyloxy-4-methylcoumarin | 2.16 g | C(C=C)OC1=CC=C2C(=CC(OC2=C1)=O)C | C13H12O3
reactant | Me2SiHCl | 2.0 g | [SiH](C)(C)Cl | C2H7ClSi
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | chloroplatinic acid | 5×10-6 mols | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 7{2-(chlorodimethylsilyl)propoxy}-4-methylcoumarin | Cl[Si](C(COC1=CC=C2C(=CC(OC2=C1)=O)C)C)(C)C | C15H19ClO3Si
